US07754880B2
Preparation of 3-amino-N-[4-chloro-3-(4,5-dimethyl-1,3-thiazol-2-yl)phenyl]-4,4,4-trifluorobut-2-eneamide
A mixture of N-[4-chloro-3-(4,5-dimethyl-1,3-thiazol-2-yl)phenyl]-4,4,4-trifluoro-3-oxobutaneamide (3.80 g) and ammonium acetate (6.22 g) in 35 ml of ethyl acetate is refluxed for 7 hours, then cooled to room temperature and diluted with ethyl acetate (70 ml). The mixture is washed once with water and once with brine, then dried over sodium sulphate and concentrated under vacuum.

reactant | N-[4-chloro-3-(4,5-dimethyl-1,3-thiazol-2-yl)phenyl]-4,4,4-trifluoro-3-oxobutaneamide | 3.80 g | ClC1=C(C=C(C=C1)NC(CC(C(F)(F)F)=O)=O)C=1SC(=C(N1)C)C | C15H12ClF3N2O2S
reactant | ammonium acetate | 6.22 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 3-amino-N-[4-chloro-3-(4,5-dimethyl-1,3-thiazol-2-yl)phenyl]-4,4,4-trifluorobut-2-eneamide | NC(=CC(=O)NC1=CC(=C(C=C1)Cl)C=1SC(=C(N1)C)C)C(F)(F)F | C15H13ClF3N3OS
